US04670434
N-cyclohexyl-N-(2-hydroxyethyl)-4-(2-oxo-3-methylene-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutanamide
To a solution of N-cyclohexyl-N-(2-acetoxyethyl)-4-(2-oxo-3-methylene-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutanamide 50 mg in ethanol (20 ml) was added 3N NaOH (5 ml) in small portions. After 30 minutes at room temperature, the reaction mixture was neutralized with concentrated HCl and the resulting precipitate was collected by filtration and dried to give the title compound.

reactant | N-cyclohexyl-N-(2-acetoxyethyl)-4-(2-oxo-3-methylene-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutanamide | 50 mg | C1(CCCCC1)N(C(CCCOC=1C=C2CN3C(=NC2=CC1)NC(C3=C)=O)=O)CCOC(C)=O | C25H32N4O5
reactant | NaOH | 3N, 5 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-cyclohexyl-N-(2-hydroxyethyl)-4-(2-oxo-3-methylene-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutanamide | C1(CCCCC1)N(C(CCCOC=1C=C2CN3C(=NC2=CC1)NC(C3=C)=O)=O)CCO | C23H30N4O4
